US08048887B2
1-(Pyrimidin-2-yl)cyclopropanamine
2-Cyano pyrimidine (5 g, 47.6 mmol, 1 eq) was taken in a Dry THF under Argon atmosphere, then titanium isopropoxide (17 ml, 57.1 mmol, 1.2 eq) was added slowly at ambient temperature and the reaction mixture was stirred for 15 mins. Ethyl magnesium bromide (1M solution) in THF (107 ml, 809 mmol, 2.5 eq) was added via syringe slowly at ambient temperature, (During the addition of EtMgBr reaction mass becomes black). Then the reaction mass was stirred for an hour. BF3.EtO (16.7 ml, 119.0 mmol, 2.5 eq) was added slowly through syringe at 0° C. The mixture was allowed to attain ambient temperature and stirred for another one hour. 50 ml of Water was added to the reaction mixture and filtered through the CELITE® and washed the bed with water and Ethyl acetate. The reaction mass was basified with 10% NaOH solution (pH=9) then extracted with DCM and washed with brine solution. The required product was purified by silica gel (230-400) column chromatography using DCM/methanol as the eluent. Yield: 2.1 g (30%). 1H NMR (400 MHz, DMSO-d6): δ 1.49-1.52 (m, 2H), 1.59-1.62 (m, 2H), 7.47-7.49 (t, 1H, J=4.80), 8.83-8.84 (d, 2H, J=4.80).

reactant | 2-Cyano pyrimidine | 47.6 mmol, 5 g, 1 eq | C(#N)C1=NC=CC=N1 | C5H3N3
reactant | THF | C1CCOC1 | C4H8O
reactant | Ethyl magnesium bromide | 1M | C(C)[Mg]Br
reactant | THF | 809 mmol, 107 ml, 2.5 eq | C1CCOC1 | C4H8O
reactant | EtMgBr | CC[Mg+].[Br-]
reactant | BF3 | B(F)(F)F | BF3
catalyst | titanium isopropoxide | 57.1 mmol, 17 ml, 1.2 eq | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | Water | 50 ml | O | H2O
product | 1-(Pyrimidin-2-yl)cyclopropanamine | N1=C(N=CC=C1)C1(CC1)N | C7H9N3
